US07326699B2
5-(3-Benzyloxy-phenyl)-6-bromo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
To a solution of 20 g (63.2 mmol) 5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (see WO 97/28161) in 1 l dry N,N-dimethylformamide, 12.4 g (69.5 mmol) N-bromosuccinimide are added at ca. 10° C. Stirring was continued at ca. 10° C. for 30 min and overnight at RT. The precipitate formed is filtered off and washed thoroughly with N,N-dimethylformamide and hexane. After drying for 24 h at 30-35° C. under vacuum, the title compound is used in the next step without further purification. Additional material can be obtained from the mother liquor through chromatography on silicagel. Analytical HPLC: tR=10.07 min (Grad 1); ES-MS: m/eo=394.9 and 396.9; NMR (DMSO-d6): 12.55/s (NH); 8.06/s (1H), 7.25-7.5/several m's (6H), 7.07/“d” (1H); 7.03/s (1H); 6.98/“d” (1H); 5.5-6.0/b (NH2); 5.12/s (2H).

reactant | 5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 63.2 mmol, 20 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CNC=2N=CN=C(C21)N | C19H16N4O
reactant | N-bromosuccinimide | 69.5 mmol, 12.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 1 l | CN(C=O)C | C3H7NO
product | 5-(3-Benzyloxy-phenyl)-6-bromo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(NC=2N=CN=C(C21)N)Br | C19H15BrN4O
